US07718645B2
(1R,5R,6S)-6-[4-(4-Amino-5-oxo-7,8-dihydro-5H-9-oxa-1,3,6-triaza-benzo cyclohepten-6-yl)-phenyl]-tricyclo[3.2.1.0*2,4*]octane-3-carboxylic Acid Methyl Ester
The named was prepared as follows. A slurry of 4-amino-6-(4-iodophenyl)-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-5(6H)-one (340 mg, 0.89 mmol), tricycle[3.2.1.0*2,4*]oct-6-ene-3-carboxylic acid ethyl ester (240 mg, 1.35 mmol), tetrabutylammonium iodide (67 mg, 0.18 mmol), piperidine (230 mg, 2.7 mmol), formic acid (170 mg, 0.14 mmol) and dichlorobis(acetonitrile) palladium(II) (23 mg, 0.09 mmol) in DMF (0.36 mL) was stirred at 125° C. for 16 hours. The reaction mixture was cooled, diluted into EtOAc, washed with water, saturated aqueous brine, dried over magnesium sulfate and concentrated in vacuo to afford an oil. Chromatography (20 g of silica gel, 1-5% methanol:chloroform) afforded a solid, 127 mg. IC50 78.3 nM.

reactant | 4-amino-6-(4-iodophenyl)-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-5(6H)-one | 0.89 mmol, 340 mg | NC1=NC=NC2=C1C(N(CCO2)C2=CC=C(C=C2)I)=O | C13H11IN4O2
reactant | oct-6-ene-3-carboxylic acid ethyl ester | 1.35 mmol, 240 mg | C(C)OC(=O)C(CC)CCC=CC | C11H20O2
reactant | piperidine | 2.7 mmol, 230 mg | N1CCCCC1 | C5H11N
reactant | formic acid | 0.14 mmol, 170 mg | C(=O)O | CH2O2
catalyst | tetrabutylammonium iodide | 0.18 mmol, 67 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 0.36 mL | CN(C)C=O | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (1R,5R,6S)-6-[4-(4-Amino-5-oxo-7,8-dihydro-5H-9-oxa-1,3,6-triaza-benzo cyclohepten-6-yl)-phenyl]-tricyclo[3.2.1.0*2,4*]octane-3-carboxylic Acid Methyl Ester | COC(=O)C1C2[C@H]3C[C@@H]([C@@H](C12)C3)C3=CC=C(C=C3)N3C(C1=C(OCC3)N=CN=C1N)=O | C23H24N4O4
